US05627165
This novel compound was synthesized by the acylation of 4-hydroxyacetophenone with diethylcarbonate to yield ethyl 4-hydroxybenzoylacetate. Treatment with acetic anhydride and subsequent catalytic hydrogenation yielded the desired product. The experimental details are given below:

reactant | 4-hydroxyacetophenone | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | diethylcarbonate | C(C)OC(OCC)=O | C5H10O3
product | ethyl 4-hydroxybenzoylacetate | OC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H12O4
